US08754089B2
A mixture of 2-amino-5-fluoropyridine (5.1673 g, 46.09 mmol), ethyl 4-chloro-acetoacetate (8.097 mL, 59.92 mmol), and polyphosphoric acid (80.00 g) was stirred at 110° C. After 4 h, the mixture was removed from the heat. The cooled mixture was suspended in water (100 mL) and the mixture was neutralized with 2 N NaOH (550 mL) until the pH 7. The resulting precipitate was collected by filtration, washed with water (1 L), and air-dried overnight to give 2-(chloro-methyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one as a brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.94 (1 H, dd, J=4.9, 2.9 Hz), 8.14 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.79-7.86 (1 H, m), 6.59 (1 H, s), 4.68 (2 H, s); Mass Spectrum (ESI) m/e=212.9 (M+1).

reactant | 2-amino-5-fluoropyridine | 46.09 mmol, 5.1673 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | ethyl 4-chloro-acetoacetate | 59.92 mmol, 8.097 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 2-(chloro-methyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one | ClCC=1N=C2N(C(C1)=O)C=C(C=C2)F | C9H6ClFN2O
